US07514419B2
To a solution of 4-bromo-6-fluoro-2-iso-propylanisole (0.92 g, 3.70 mmol) in CH2Cl2 (10.0 mL) at −78° C. was added BBr3 (5.5 mL, 5.5 mmol, 1.0 M in CH2Cl2). After 5 min, the reaction mixture was stirred at room temperature for 16 h, poured into ice (50 g) and extracted with ethyl acetate (20.0 mL). The organic layer was separated, dried over MgSO4 and filtered. The solvent was removed under reduced pressure to afford 4-bromo-6-fluoro-2-iso-propylphenol (0.90 g, 100%) as a dark oil, which was used for the next step without further purification: 1H NMR (300 MHz, CD3OD): δ 7.26 (d, J=10.5 Hz, 1H), 6.92 (d, J=10.5 Hz, 1H), 3.30 (m, 1H), 1.23 (d, J=6.6 Hz, 6H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=ethyl acetate-hexanes (1:9); Rf=0.40.

reactant | 4-bromo-6-fluoro-2-iso-propylanisole | 3.70 mmol, 0.92 g | BrC1=CC(=C(C(=C1)F)OC)C(C)C | C10H12BrFO
reactant | BBr3 | 5.5 mmol, 1.0 M, 5.5 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 10.0 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-6-fluoro-2-iso-propylphenol | 0.90 g, 100% | BrC1=CC(=C(C(=C1)F)O)C(C)C | C9H10BrFO
